US08530648B2
d) tert-butyl 4-allyl-4-(N-((1-tosyl-1H-indol-4-yl)methyl)acrylamido)piperidine-1-carboxylate
Acryloyl chloride (0.360 g, 0.401 mmol) was added at 0° C. to a stirred solution of tert-butyl 4-allyl-4-((1-tosyl-1H-indol-4-yl)methylamino)piperidine-1-carboxylate (0.2 g, 0.382 mmol), diisopropylethylamine (0.32 mL, 1.91 mmol) in DCM (5.0 mL). The reaction mixture was stirred at 0° C. for 30 min and was then allowed to warm to rt and stirred for 4 h. The reaction mixture was concentrated under reduced pressure and the crude product was purified by column chromatography (eluent: 5% ethyl acetate in hexane) to yield the title compound as a white solid (0.16 g, 72%). LCMS RtA=0.774, [M+H-Boc]+=477.9

reactant | Acryloyl chloride | 0.401 mmol, 0.360 g | C(C=C)(=O)Cl | C3H3ClO
reactant | tert-butyl 4-allyl-4-((1-tosyl-1H-indol-4-yl)methylamino)piperidine-1-carboxylate | 0.382 mmol, 0.2 g | C(C=C)C1(CCN(CC1)C(=O)OC(C)(C)C)NCC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C29H37N3O4S
reactant | diisopropylethylamine | 1.91 mmol, 0.32 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-allyl-4-(N-((1-tosyl-1H-indol-4-yl)methyl)acrylamido)piperidine-1-carboxylate | 0.16 g, 72% | C(C=C)C1(CCN(CC1)C(=O)OC(C)(C)C)N(C(C=C)=O)CC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C32H39N3O5S
